US04812573
To a stirred solution of 2-acetyl-5-amino-1,2,3,4-tetrahydroisoquinoline (6.6 g) in a mixture of dry pyridine (3 g) and dichloromethane (450 ml) at approximately 5° C. was added dropwise, over 15 minutes, benzenesulphonyl chloride (6.2 g). The orange solution was stirred overnight at room temperature and was then washed several times with water, dried and the solvent was then evaporated to give a dark orange oil. Crystallisation from 2-propanol gave 2-acetyl-5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline as a pale pink solid (9.5 g) m.p. 131°-132° C.

reactant | 2-acetyl-5-amino-1,2,3,4-tetrahydroisoquinoline | 6.6 g | C(C)(=O)N1CC2=CC=CC(=C2CC1)N | C11H14N2O
reactant | pyridine | 3 g | N1=CC=CC=C1 | C5H5N
reactant | benzenesulphonyl chloride | 6.2 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 2-acetyl-5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline | 9.5 g | C(C)(=O)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C1=CC=CC=C1 | C17H18N2O3S
